US06509334B1
6-(3-Chlorophenyl)-spiro-[4H-3,1-benzoxazine-4,1′-cyclopentane]-2(1H)-one
Prepared from 6-bromo-spiro-[4H-3,1-benzoxazine-4,1′-cyclopentane]-2-(1H)-one and 3-chlorophenyl boronic acid according to Procedure A. Off-white solid: mp 140-145° C. 1H-NMR (DMSO-d6) δ10.27 (s, 1H), 7.75 (t, 1H, J=1.8 Hz), 7.53-7.63 (m, 3H), 7.44 (t, 1H, J=7.9 Hz), 7.36 (m, 1H), 6.95 (d, 1H, J=8.6 Hz), 2.09-2.15 (m, 4H), 1.81-1.89 (m, 4H). MS (ESI) m/z 314 [M+H]+. Anal. Calc. For C18H16ClNO2: C, 68.90; H, 5.14; N, 4.46. Found: C,60.94; H, 4.94; N, 3.78.

reactant | 6-bromo-spiro-[4H-3,1-benzoxazine-4,1′-cyclopentane]-2-(1H)-one | BrC=1C=CC2=C(C1)C1(CCCC1)OC(N2)=O | C12H12BrNO2
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-Chlorophenyl)-spiro-[4H-3,1-benzoxazine-4,1′-cyclopentane]-2(1H)-one | ClC=1C=C(C=CC1)C=1C=CC2=C(C1)C1(CCCC1)OC(N2)=O | C18H16ClNO2
